US04409215
To a solution of 2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer)(7.5 g) in tetrahydrofuran (40 ml) was added trifluoroacetic anhydride (7.9 g) at -16° C. for 10 minutes. To the reaction mixture was added triethylamine (5.3 ml) at -10° C., and then the mixture was stirred for 90 min at 0° to 5° C. To the above mixture were added ethyl acetate (100 ml) and water (100 ml), and adjusted to pH 7.5 with a saturated aqueous sodium bicarbonate. The aqueous layer was adjusted to pH 2.0 with conc. hydrochloric acid and extracted with ethyl acetate (200 ml). The organic layer was washed with a saturated aqueous sodium chloride and dried over magnesium sulfate. The solvent was removed by evaporation under reduced pressure to give an oil. n-Hexane was added to the oil and the precipitated substance was collected by filtration to give crystalline 2-benzhydryloxycarbonylmethoxyimino-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid (syn isomer)(6.0 g), mp 178°-180° C.

reactant | 2-benzhydryloxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 7.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C21H17N3O6S
reactant | trifluoroacetic anhydride | 7.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | n-Hexane | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
product | 2-benzhydryloxycarbonylmethoxyimino-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid | 6.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C22H16F3N3O6S
